US05624942
(1) Synthesis of an intermediate, 2-chloro-6-(3-thienylmethyloxy)pyridine
To a solution containing 3-thiophenemethanol (1.17 g, 0.010×1.0 mol) and sodium hydride (0.39 g, (ca.60% in mineral oil), 0.010×1.0 mol) in tetrahydrofuran, 2,6-dichloropyridine (1.5 g, 0.010 mol) was added and the resultant solution was refluxed for about 2 hours.

reactant | 3-thiophenemethanol | 1.0 mol, 1.17 g | S1C=C(C=C1)CO | C5H6OS
reactant | sodium hydride | 1.0 mol, 0.39 g | [H-].[Na+]
reactant | 2,6-dichloropyridine | 0.010 mol, 1.5 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-chloro-6-(3-thienylmethyloxy)pyridine | ClC1=NC(=CC=C1)OCC1=CSC=C1 | C10H8ClNOS
